* Z:\home\mariano\scripts\pytc2\docs\notebooks\schematics\tee_puen_2ord_delay_eq2.asc
V1 N001 0 0 AC 1 0 Rser=0
R1 vi N001 {R}
R2 0 vo {R}
C1 va 0 {2*cv2} Rser=0
C2 vo vi {cv1/2} Rser=0
L1 va vi {(lv1+lv2)/2} Rser=0
L2 va vo {(lv1+lv2)/2} Rser=0
.net I(R2) V1
.ac dec 100 .001 100
.param lv1=a/b*R cv1=1/a/R lv2=1/a*R cv2=a/b/R
.param a=w0/Q b = w0**2
k L1 L2 {(lv2-lv1)/(lv2+lv1)}
* V_o/V1 = (s**2 - a*s + b)/(s**2 + a*s + b)
.param w0=1 Q = sqrt(2)/2 R =1
.backanno
.end
